US06548493B1
4-((±)-cis-4,5,7,8,10,10a-hexahydropyrido[4.3-b]pyrrolo[3,2,1-hi]indol-9(6aH)-yl)-1-(4-fluorophenyl)-1-butanone
A mixture of (±)-cis-4,5,6a,7,8,9,10,10a-octahydropyrido[4.3-b]pyrrolo[3,2,1-hi]indole (2.8 g, 14 mmol), 4-chloro-4′-fluorobutyrophenone (4.21 g, 21 mmol), triethylamine (3 mL), KI (3.48 g, 21 mmol), dioxane (25 mL), and toluene (25 mL) was stirred and refluxed for 15 h under an atmosphere of nitrogen and then evaporated under reduced pressure to remove the volatiles. The residue was triturated with a small volume of dichloromethane and decanted from the insoluble material. The process was repeated two more times and the combined dichloromethane solution was added to 0.5N solution of hydrogen chloride in ether(200 mL). The salt that separated was filtered off, washed with ether, dissolved immediately in a minimum quantity of water and the solution extracted with ether. The ether extract was discarded and aqueous layer basified with 10% aqueous sodium hydroxide. The resulting mixture was extracted with dichloro-methane (2×) and the extract dried over magnesium sulfate and stripped of the solvent under reduced pressure to yield the title compound (3.3 g, 65%) as a highly viscous light brown liquid. 1H NMR (CDCl3, 300 MHz) δ1.70-1.80 (m, 2H), 1.80-2.02 (m, 2H), 2.19 (t, J=10.9 Hz, 1H), 2.30-2.52 (m, 3H), 2.62-2.72 (m, 1H), 2.72-2.85 (m, 1H), 2.99 (t, J=7.0 Hz, 2H), 3.02-3.20 (m, 2H), 3.25-3.42 (m, 2H), 3.59-3.65 (m, 1H), 6.85 (s, 1H), 6.90 (s, 1H0, 7.01 (t, J=7.0 Hz, 2H), 7.98-8.03 (m, 2H) ppm. MS (CI): 365 (M+H+).

reactant | (±)-cis-4,5,6a,7,8,9,10,10a-octahydropyrido[4.3-b]pyrrolo[3,2,1-hi]indole | 14 mmol, 2.8 g | C1=C2[C@@H]3[C@H](N4C2=C(C=C1)CC4)CCNC3 | C13H16N2
reactant | 4-chloro-4′-fluorobutyrophenone | 21 mmol, 4.21 g | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
reactant | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-((±)-cis-4,5,7,8,10,10a-hexahydropyrido[4.3-b]pyrrolo[3,2,1-hi]indol-9(6aH)-yl)-1-(4-fluorophenyl)-1-butanone | 3.3 g, 65% | C1=C2[C@@H]3[C@H](N4C2=C(C=C1)CC4)CCN(C3)CCCC(=O)C3=CC=C(C=C3)F | C23H25FN2O
